US20010027196A1
4-[2-(2-Amino-5-fluoro-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-phenol
From trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester and tyramine in DME. ES-MS m/e (%): 315 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)F)C=1OC=CC1 | C9H5F4N3O4S
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | DME | COCCOC | C4H10O2
product | 4-[2-(2-Amino-5-fluoro-6-furan-2-yl-pyrimidin-4-ylamino)-ethyl]-phenol | NC1=NC(=C(C(=N1)NCCC1=CC=C(C=C1)O)F)C=1OC=CC1 | C16H15FN4O2
